US08420816B2
(R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-N-(2-cyanoethyl)-3,3-dimethylbutanamide
To an 8 mL scintillation vial equipped for stirring was added (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3,3-dimethylbutanoic acid (5 mg, 0.016 mmol). DMF (0.5 mL), 3-aminopropanenitrile (1.089 mg, 0.016 mmol), HOBt (3.57 mg, 0.023 mmol), EDC (4.47 mg, 0.023 mmol) and N,N-dimethylpyridin-4-amine (1.898 mg, 0.016 mmol) were added and the solution was stirred at 25° C. for 4 h. The reaction mixture was purified via preparative mass trigger LC-MS (AcCN/H2O, 20-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil (3.2 mg, 55.1%). 1H NMR (500 MHz, CD3OD) δ 1.19 (s, 9 H) 2.63-2.72 (m, 2 H) 3.38-3.53 (m, 2 H) 4.89 (br. s., 1 H) 5.29 (d, J=19.04 Hz, 1 H) 5.41 (d, J=19.00 Hz, 2 H) 7.85 (s, 1 H) 8.24 (s, 1 H) 8.55 (d, J=4.88 Hz, 1 H). [M+H] calc'd for C18H20ClN5O2, 374; found, 374.5.

reactant | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3,3-dimethylbutanoic acid | 0.016 mmol, 5 mg | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)O)C(C)(C)C)=O)=CN2 | C15H16ClN3O3
reactant | 3-aminopropanenitrile | 0.016 mmol, 1.089 mg | NCCC#N | C3H6N2
reactant | HOBt | 0.023 mmol, 3.57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.023 mmol, 4.47 mg
catalyst | N,N-dimethylpyridin-4-amine | 0.016 mmol, 1.898 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)-2-(6-chloro-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-N-(2-cyanoethyl)-3,3-dimethylbutanamide | 3.2 mg, 55.1% | ClC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)NCCC#N)C(C)(C)C)=O)=CN2 | C18H20ClN5O2
